US05891897
To 2 g of 2-cyanomethyl-4-(2,6-difluorophenyl)thiazole and 4.8 g of dimethyl carbonate was added 30 ml of toluene, 0.6 g of sodium methoxide was added, and the resulting mixture was stirred and heated to the reflux temperature for 4 hours. After cooling, the reaction mixture was poured into 100 ml of ice-cold water, 1N-HCl was added to acidify the aqueous layer, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, and the residue obtained was purified by column chromatography (ethyl acetate/n-hexane=2/1) to give 1.67 g of methyl 2-cyano-2-{4-(2,6-difluorophenyl)thiazol-2-yl}acetate.

reactant | 2-cyanomethyl-4-(2,6-difluorophenyl)thiazole | 2 g | C(#N)CC=1SC=C(N1)C1=C(C=CC=C1F)F | C11H6F2N2S
reactant | dimethyl carbonate | 4.8 g | C(OC)(OC)=O | C3H6O3
reactant | sodium methoxide | 0.6 g | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-cyano-2-{4-(2,6-difluorophenyl)thiazol-2-yl}acetate | 1.67 g | C(#N)C(C(=O)OC)C=1SC=C(N1)C1=C(C=CC=C1F)F | C13H8F2N2O2S
